US05763450
138 mg of 5-(3-bromo-4,5-dimethoxy-benzyl)-pyrimidine-2,4-diamine, 98 mg of trimethyl-phenyl-stannate (Example 1a), 51 mg of lithium chloride, 25 mg of tetrakis-triphenylphosphinepalladium and a crystal of 2,6-di-t-butyl-p-cresol in 10 ml of dioxan are held at reflux under argon for 4 hrs. The yellowish reaction mixture is poured into about 10% aqueous ammonia and extracted three times with methylene chloride. The organic phase is dried over magnesium sulphate and chromatographed on silica gel with methylene chloride/methanol 9:1. 62 mg (46%) of 5-(5,6-dimethoxy-biphenyl-3-ylmethyl)-pyrimidine-2,4-diamine are isolated as a yellowish solid. Mass spectrum: peaks: inter alia at m/e: 336 (M+, 100%), 321 (28%), 305 (54%), 123 (36%).

reactant | 5-(3-bromo-4,5-dimethoxy-benzyl)-pyrimidine-2,4-diamine | 138 mg | BrC=1C=C(CC=2C(=NC(=NC2)N)N)C=C(C1OC)OC | C13H15BrN4O2
reactant | lithium chloride | 51 mg | [Cl-].[Li+]
reactant | 2,6-di-t-butyl-p-cresol | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
reactant | ammonia | N | H3N
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | 5-(5,6-dimethoxy-biphenyl-3-ylmethyl)-pyrimidine-2,4-diamine | 62 mg, 46% | COC=1C=C(C=C(C1OC)C1=CC=CC=C1)CC=1C(=NC(=NC1)N)N | C19H20N4O2
